US07692005B2
1-Ethyl-3-methyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 1-Ethyl-3-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 100 mg, 0.2401 mmol) and THF (2.5 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (45.7 mg, 0.240 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The solid residue was redissolved in EtOAc (˜5 mL) and Hexane (˜40 mL) was added to the solution. The precipitate that formed was collected by filtration and washed with 0° C. iPrOH (10 mL) to afford the title compound in 58% yield (0.0821 g, 0.139 mmol).

reactant | 1-Ethyl-3-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.2401 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=NN(C1)CC)C)=O | C23H20N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.240 mmol, 45.7 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-3-methyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 58% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=NN(C1)CC)C)=O | C34H35N7O3
